US09290485B2
c) (5-{[(5-Benzyl-oxazole-2-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester
A mixture of 5-Benzyl-oxazole-2-carboxylic acid (0.86 g, 2.8 mmol), (5-Aminomethyl-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (0.70 g, 2.8 mmol), HATU (1.4 g, 3.6 mmol) and DIPEA (2.0 mL, 11.7 mmol) in 10 mL DMF was stirred at room temperature for 16 h. The mixture was evaporated and the residue was partitioned between ethyl acetate and 1 N aq. HCl. The organic layer was dried over MgSO4 and evaporated in vacuo. The crude product was purified by preparative HPLC (Waters Sunfire Prep C18 PBD 5 um, 30×100 mm, 5 to 100% ACN and 0.1% TFA, flow 40 ml/min). LCMS (method A) RtA=1.719 min; [M+H]+=437.0

reactant | 5-Benzyl-oxazole-2-carboxylic acid | 2.8 mmol, 0.86 g | C(C1=CC=CC=C1)C1=CN=C(O1)C(=O)O | C11H9NO3
reactant | (5-Aminomethyl-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 2.8 mmol, 0.70 g | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CN)C)=O | C13H21N3O2
reactant | HATU | 3.6 mmol, 1.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 11.7 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (5-{[(5-Benzyl-oxazole-2-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1OC(=CN1)CC1=CC=CC=C1)C)=O | C24H28N4O4
